C1 (net281 net219) C=7.1E-10
R2 ( net180 net188)  R=7.5E3
T3 ( net188 net189 0 0)  nfet  L=9.25E-6 W=3.35E-6
T4 ( net4 net189 0 0)  nfet  L=9.25E-6 W=3.35E-6
T5 ( vdd! net188 net189 0)  nfet  L=9.25E-6 W=3.35E-6
R6 (net6 vdd!) R=4.8E3
T7 (net259 net17 net17 0) pfet L=4.09E-6 W=4.48E-6
T8 ( net99 net99 vdd! vdd!)  pfet  L=4.38E-6 W=5.04E-6
T9 ( net325 net99 vdd! vdd!)  pfet  L=4.38E-6 W=5.04E-6
R10 ( net325 net102)  R=9.8E4
T11 (net312 net148 net148 0) pfet L=7.40E-6 W=2.36E-6
R12 (net101 net294) R=7.1E1
R13 ( net182 net341)  R=3.1E3
T14 ( net341 net13 0 0)  nfet  L=6.04E-6 W=9.05E-6
T15 ( net69 net13 0 0)  nfet  L=6.04E-6 W=9.05E-6
T16 ( net179 net341 net69 0)  nfet  L=6.04E-6 W=9.05E-6
T17 (net222 net148 net148 0) nfet L=6.01E-6 W=2.22E-6
R18 ( net287 net91)  R=7.1E1
T19 ( net91 net91 vdd! vdd!)  pfet  L=9.24E-6 W=3.81E-6
T20 ( net217 net91 vdd! vdd!)  pfet  L=9.24E-6 W=3.81E-6
T21 (net46 0 0 0) pfet L=5.81E-6 W=6.06E-6
T22 (net134 net129 net129 0) nfet L=7.42E-6 W=3.10E-6
C23 (net346 net171) C=2.1E-10
R24 ( 0 net190)  R=1.5E3
T25 ( net190 net190 net114 vdd!)  pfet  L=3.81E-6 W=9.51E-6
T26 ( net114 net150 vdd! vdd!)  pfet  L=3.81E-6 W=9.51E-6
T27 ( net150 net150 vdd! vdd!)  pfet  L=3.81E-6 W=9.51E-6
T28 ( net43 net190 net150 vdd!)  pfet  L=3.81E-6 W=9.51E-6
T29 (net215 net78 net78 0) nfet L=8.62E-6 W=3.83E-6
R30 (net326 net52) R=3.2E3
T31 ( net36 net36 vdd! vdd!)  pfet  L=9.53E-6 W=0.85E-6
T32 ( net321 net36 vdd! vdd!)  pfet  L=9.53E-6 W=0.85E-6
R33 ( net321 net103)  R=2.1E3
T34 (net351 net183 net183 0) nfet L=9.19E-6 W=2.13E-6
T35 ( net229 net229 vdd! vdd!)  pfet  L=1.57E-6 W=3.65E-6
T36 ( net12 net229 vdd! vdd!)  pfet  L=1.57E-6 W=3.65E-6
R37 ( net12 net17)  R=4.2E2
C38 (net236 net33) C=2.6E-11
R39 (net308 net342) R=7.3E2
R40 (net198 net280) R=6.8E0
R41 (net71 net52) R=5.7E4
R42 ( vdd! net240)  R=0.2E5
T43 ( net240 net227 vdd! vdd!)  pfet  L=4.16E-6 W=8.67E-6
T44 ( net89 net227 vdd! vdd!)  pfet  L=4.16E-6 W=8.67E-6
T45 ( 0 net240 net227 vdd!)  pfet  L=4.16E-6 W=8.67E-6
C46 (net343 net142) C=6.9E-10
R47 ( net173 net208)  R=7.7E0
T48 ( net208 net218 0 0)  nfet  L=0.25E-6 W=7.12E-6
T49 ( net275 net218 0 0)  nfet  L=0.25E-6 W=7.12E-6
T50 ( net197 net208 net275 0)  nfet  L=0.25E-6 W=7.12E-6
C51 (net92 net21) C=4.9E-12
R52 ( net267 net293)  R=3.2E6
T53 ( net293 net322 vdd! vdd!)  pfet  L=3.90E-6 W=4.77E-6
T54 ( net213 net322 vdd! vdd!)  pfet  L=3.90E-6 W=4.77E-6
T55 ( net180 net293 net213 vdd!)  pfet  L=3.90E-6 W=4.77E-6
T56 (net15 net200 net200 0) nfet L=4.69E-6 W=2.81E-6
T57 (0 net26 net26 0) pfet L=1.19E-6 W=7.26E-6
C58 (0 net174) C=2.2E-11
T59 (net303 net241 net241 0) pfet L=0.38E-6 W=4.16E-6
R60 ( net25 net154)  R=8.5E3
T61 ( net154 net327 vdd! vdd!)  pfet  L=5.29E-6 W=0.63E-6
T62 ( net108 net327 vdd! vdd!)  pfet  L=5.29E-6 W=0.63E-6
T63 ( net88 net154 net108 vdd!)  pfet  L=5.29E-6 W=0.63E-6
R64 (net70 net200) R=3.8E2
R65 ( net300 net10)  R=5.9E5
T66 ( net10 net7 0 0)  nfet  L=4.87E-6 W=7.34E-6
T67 ( net30 net7 0 0)  nfet  L=4.87E-6 W=7.34E-6
T68 ( net347 net10 net30 0)  nfet  L=4.87E-6 W=7.34E-6
T69 (net268 net156 net156 0) nfet L=2.15E-6 W=9.03E-6
T70 (net253 net316 net316 0) nfet L=8.67E-6 W=8.84E-6
R71 ( net270 net287)  R=1.7E4
T72 ( net287 net287 net269 0)  nfet  L=5.23E-6 W=1.47E-6
T73 ( net269 net24 0 0)  nfet  L=5.23E-6 W=1.47E-6
T74 ( net24 net24 0 0)  nfet  L=5.23E-6 W=1.47E-6
T75 ( net70 net287 net24 0)  nfet  L=5.23E-6 W=1.47E-6
T76 (net276 net86 net86 0) pfet L=0.98E-6 W=8.88E-6
T77 ( net251 net251 0 0)  nfet  L=6.76E-6 W=9.96E-6
T78 ( net164 net251 0 0)  nfet  L=6.76E-6 W=9.96E-6
R79 ( net164 net144)  R=3.2E0
R80 (0 net344) R=5.4E0
R81 ( net27 net20)  R=0.2E2
T82 ( net20 net20 net109 vdd!)  pfet  L=2.97E-6 W=2.35E-6
T83 ( net109 net335 vdd! vdd!)  pfet  L=2.97E-6 W=2.35E-6
T84 ( net335 net335 vdd! vdd!)  pfet  L=2.97E-6 W=2.35E-6
T85 ( net210 net20 net335 vdd!)  pfet  L=2.97E-6 W=2.35E-6
T86 (net106 net280 net280 0) nfet L=8.45E-6 W=9.24E-6
T87 (net243 net168 net168 0) nfet L=8.38E-6 W=6.50E-6
R88 ( net351 net46)  R=4.4E5
T89 ( net46 net46 net161 0)  nfet  L=4.28E-6 W=2.98E-6
T90 ( net161 net41 0 0)  nfet  L=4.28E-6 W=2.98E-6
T91 ( net41 net41 0 0)  nfet  L=4.28E-6 W=2.98E-6
T92 ( net272 net46 net41 0)  nfet  L=4.28E-6 W=2.98E-6
R93 (net338 net105) R=6.4E4
R94 ( net242 net246)  R=5.4E1
T95 ( net246 net139 vdd! vdd!)  pfet  L=7.50E-6 W=0.44E-6
T96 ( net34 net139 vdd! vdd!)  pfet  L=7.50E-6 W=0.44E-6
T97 ( 0 net246 net139 vdd!)  pfet  L=7.50E-6 W=0.44E-6
T98 (net82 net71 net71 0) pfet L=9.18E-6 W=0.86E-6
T99 (net127 net142 net142 0) pfet L=8.33E-6 W=7.91E-6
R100 (0 net312) R=9.9E6
R101 (0 net228) R=4.2E3
R102 (net310 net136) R=8.8E4
T103 (net284 net185 net185 0) nfet L=5.13E-6 W=1.62E-6
T104 ( net70 net70 0 0)  nfet  L=7.82E-6 W=2.92E-6
T105 ( net97 net70 0 0)  nfet  L=7.82E-6 W=2.92E-6
R106 ( net97 net93)  R=4.7E1
T107 (net339 net183 net183 0) nfet L=3.46E-6 W=8.08E-6
R108 ( net147 net104)  R=3.4E6
T109 ( net104 net61 0 0)  nfet  L=6.26E-6 W=2.20E-6
T110 ( net135 net61 0 0)  nfet  L=6.26E-6 W=2.20E-6
T111 ( net106 net104 net135 0)  nfet  L=6.26E-6 W=2.20E-6
T112 (net311 net242 net242 0) nfet L=6.98E-6 W=1.89E-6
R113 ( net334 net68)  R=5.4E6
T114 ( net68 net68 0 0)  nfet  L=3.24E-6 W=4.72E-6
T115 ( net302 net68 0 0)  nfet  L=3.24E-6 W=4.72E-6
R116 (net134 net32) R=4.2E1
R117 ( net260 net5)  R=6.0E3
T118 ( net5 net5 vdd! vdd!)  pfet  L=0.80E-6 W=1.10E-6
T119 ( net103 net5 vdd! vdd!)  pfet  L=0.80E-6 W=1.10E-6
C120 (net15 net320) C=8.1E-11
R121 (net309 net2) R=4.2E5
T122 (0 net67 net67 0) pfet L=6.34E-6 W=1.85E-6
C123 (net285 net136) C=6.0E-13
R124 (net351 net312) R=3.7E0
R125 ( net175 net64)  R=9.8E0
T126 ( net64 net64 0 0)  nfet  L=9.87E-6 W=6.64E-6
T127 ( net260 net64 0 0)  nfet  L=9.87E-6 W=6.64E-6
T128 (net312 net254 net254 0) nfet L=5.80E-6 W=8.75E-6
T129 (net59 net9 net9 0) pfet L=1.37E-6 W=2.45E-6
R130 ( net63 net93)  R=4.7E2
T131 ( net93 net302 vdd! vdd!)  pfet  L=6.46E-6 W=6.43E-6
T132 ( net101 net302 vdd! vdd!)  pfet  L=6.46E-6 W=6.43E-6
T133 ( net343 net93 net101 vdd!)  pfet  L=6.46E-6 W=6.43E-6
C134 (net338 net171) C=6.2E-13
R135 ( net103 net191)  R=1.2E3
T136 ( net191 net221 0 0)  nfet  L=3.96E-6 W=4.71E-6
T137 ( 0 net221 0 0)  nfet  L=3.96E-6 W=4.71E-6
T138 ( vdd! net191 net221 0)  nfet  L=3.96E-6 W=4.71E-6
T139 (net83 net35 net35 0) pfet L=6.41E-6 W=2.06E-6
R140 (net283 net45) R=2.4E3
T141 (net332 net285 net285 0) pfet L=7.56E-6 W=1.54E-6
R142 ( net211 net4)  R=9.3E5
T143 ( net4 net128 0 0)  nfet  L=6.70E-6 W=1.53E-6
T144 ( net247 net128 0 0)  nfet  L=6.70E-6 W=1.53E-6
T145 ( vdd! net4 net128 0)  nfet  L=6.70E-6 W=1.53E-6
T146 (net43 vdd! vdd! 0) pfet L=2.16E-6 W=7.12E-6
R147 ( net89 net226)  R=8.6E2
T148 ( net226 net207 0 0)  nfet  L=6.18E-6 W=1.14E-6
T149 ( net25 net207 0 0)  nfet  L=6.18E-6 W=1.14E-6
T150 ( vdd! net226 net207 0)  nfet  L=6.18E-6 W=1.14E-6
C151 (net27 net314) C=8.6E-6
R152 ( net165 net142)  R=1.3E0
T153 ( net142 net142 net186 vdd!)  pfet  L=3.66E-6 W=3.79E-6
T154 ( net186 net57 vdd! vdd!)  pfet  L=3.66E-6 W=3.79E-6
T155 ( net57 net57 vdd! vdd!)  pfet  L=3.66E-6 W=3.79E-6
T156 ( net233 net142 net57 vdd!)  pfet  L=3.66E-6 W=3.79E-6
R157 (net314 net165) R=4.5E3
R158 ( net67 net96)  R=2.1E1
T159 ( net96 net96 net211 0)  nfet  L=4.90E-6 W=9.01E-6
T160 ( net211 net295 0 0)  nfet  L=4.90E-6 W=9.01E-6
T161 ( net295 net295 0 0)  nfet  L=4.90E-6 W=9.01E-6
T162 ( net251 net96 net295 0)  nfet  L=4.90E-6 W=9.01E-6
T163 (net16 net251 net251 0) pfet L=0.13E-6 W=8.55E-6
C164 (net265 net23) C=9.8E-7
R165 ( net160 net62)  R=3.9E1
T166 ( net62 net62 vdd! vdd!)  pfet  L=9.42E-6 W=2.92E-6
T167 ( net92 net62 vdd! vdd!)  pfet  L=9.42E-6 W=2.92E-6
C168 (net351 net67) C=3.9E-10
R169 ( net312 net297)  R=5.3E3
T170 ( net297 net192 vdd! vdd!)  pfet  L=2.99E-6 W=2.99E-6
T171 ( net284 net192 vdd! vdd!)  pfet  L=2.99E-6 W=2.99E-6
T172 ( net183 net297 net284 vdd!)  pfet  L=2.99E-6 W=2.99E-6
C173 (net182 net209) C=4.6E-6
R174 (net113 net59) R=3.7E3
R175 (net347 net143) R=9.9E2
T176 (net349 net34 net34 0) nfet L=6.44E-6 W=6.22E-6
C177 (0 net38) C=0.7E-12
T178 (vdd! net230 net230 0) nfet L=5.18E-6 W=6.44E-6
R179 (net296 net286) R=3.3E3
C180 (net187 net131) C=9.8E-5
R181 ( net271 net143)  R=1.1E0
T182 ( net143 net267 vdd! vdd!)  pfet  L=4.96E-6 W=6.00E-6
T183 ( net72 net267 vdd! vdd!)  pfet  L=4.96E-6 W=6.00E-6
T184 ( 0 net143 net267 vdd!)  pfet  L=4.96E-6 W=6.00E-6
C185 (net121 net76) C=8.4E-13
C186 (net148 net258) C=4.5E-13
R187 ( net6 net18)  R=1.5E2
T188 ( net18 net18 net200 0)  nfet  L=7.77E-6 W=0.81E-6
T189 ( net200 net35 0 0)  nfet  L=7.77E-6 W=0.81E-6
T190 ( net35 net35 0 0)  nfet  L=7.77E-6 W=0.81E-6
T191 ( net236 net18 net35 0)  nfet  L=7.77E-6 W=0.81E-6
T192 (net195 net315 net315 0) nfet L=0.60E-6 W=9.24E-6
R193 ( 0 net155)  R=1.7E6
T194 ( net155 net155 net193 0)  nfet  L=7.47E-6 W=1.47E-6
T195 ( net193 net264 0 0)  nfet  L=7.47E-6 W=1.47E-6
T196 ( net264 net264 0 0)  nfet  L=7.47E-6 W=1.47E-6
T197 ( net234 net155 net264 0)  nfet  L=7.47E-6 W=1.47E-6
C198 (net165 net51) C=3.8E-6
T199 (net183 net152 net152 0) pfet L=7.29E-6 W=4.10E-6
T200 (net323 net37 net37 0) pfet L=9.03E-6 W=6.00E-6
T201 ( net168 net168 0 0)  nfet  L=6.59E-6 W=3.28E-6
T202 ( net170 net168 0 0)  nfet  L=6.59E-6 W=3.28E-6
R203 ( net170 net156)  R=8.0E6
R204 (net317 net260) R=2.2E0
T205 (net45 net180 net180 0) nfet L=0.19E-6 W=2.42E-6
R206 ( net113 net219)  R=1.3E1
T207 ( net219 net47 vdd! vdd!)  pfet  L=1.60E-6 W=2.18E-6
T208 ( net40 net47 vdd! vdd!)  pfet  L=1.60E-6 W=2.18E-6
T209 ( 0 net219 net47 vdd!)  pfet  L=1.60E-6 W=2.18E-6
C210 (net178 net56) C=9.7E-10
R211 ( net173 net121)  R=8.1E4
T212 ( net121 net121 net309 vdd!)  pfet  L=4.54E-6 W=3.07E-6
T213 ( net309 net16 vdd! vdd!)  pfet  L=4.54E-6 W=3.07E-6
T214 ( net16 net16 vdd! vdd!)  pfet  L=4.54E-6 W=3.07E-6
T215 ( net121 net121 net16 vdd!)  pfet  L=4.54E-6 W=3.07E-6
T216 (net237 net119 net119 0) nfet L=0.57E-6 W=9.38E-6
R217 ( net268 net222)  R=9.6E2
T218 ( net222 net222 net204 0)  nfet  L=7.36E-6 W=6.32E-6
T219 ( net204 net157 0 0)  nfet  L=7.36E-6 W=6.32E-6
T220 ( net157 net157 0 0)  nfet  L=7.36E-6 W=6.32E-6
T221 ( net228 net222 net157 0)  nfet  L=7.36E-6 W=6.32E-6
C222 (net236 net60) C=4.6E-8
T223 (net177 0 0 0) nfet L=6.06E-6 W=6.78E-6
C224 (net304 net224) C=1.1E-12
R225 ( net220 net311)  R=7.1E0
T226 ( net311 net44 0 0)  nfet  L=4.63E-6 W=0.83E-6
T227 ( net134 net44 0 0)  nfet  L=4.63E-6 W=0.83E-6
T228 ( vdd! net311 net44 0)  nfet  L=4.63E-6 W=0.83E-6
C229 (net153 net266) C=8.3E-12
T230 (net73 net34 net34 0) pfet L=9.85E-6 W=3.12E-6
T231 (vdd! net184 net184 0) nfet L=7.70E-6 W=1.81E-6
T232 (net165 net43 net43 0) nfet L=5.88E-6 W=0.87E-6
R233 ( net254 net176)  R=4.6E1
T234 ( net176 net176 vdd! vdd!)  pfet  L=9.60E-6 W=2.10E-6
T235 ( net124 net176 vdd! vdd!)  pfet  L=9.60E-6 W=2.10E-6
C236 (net77 net303) C=1.5E-5
R237 ( net27 net25)  R=9.7E2
T238 ( net25 net28 vdd! vdd!)  pfet  L=0.26E-6 W=3.08E-6
T239 ( net266 net28 vdd! vdd!)  pfet  L=0.26E-6 W=3.08E-6
T240 ( 0 net25 net28 vdd!)  pfet  L=0.26E-6 W=3.08E-6
R241 (net169 net185) R=1.1E0
T242 (net138 net70 net70 0) pfet L=5.31E-6 W=5.12E-6
T243 ( net228 net228 vdd! vdd!)  pfet  L=8.78E-6 W=9.05E-6
T244 ( net349 net228 vdd! vdd!)  pfet  L=8.78E-6 W=9.05E-6
R245 ( net349 net205)  R=7.0E1
T246 (net167 0 0 0) nfet L=2.62E-6 W=0.29E-6
C247 (net351 net266) C=1.2E-5
T248 ( net199 net199 0 0)  nfet  L=4.13E-6 W=1.89E-6
T249 ( net76 net199 0 0)  nfet  L=4.13E-6 W=1.89E-6
R250 ( net76 net244)  R=1.6E2
C251 (net63 net79) C=3.6E-14
C252 (0 net254) C=9.5E-6
R253 ( net134 net316)  R=5.7E5
T254 ( net316 net316 0 0)  nfet  L=1.77E-6 W=3.62E-6
T255 ( net84 net316 0 0)  nfet  L=1.77E-6 W=3.62E-6
T256 (net8 net74 net74 0) pfet L=6.28E-6 W=5.86E-6
R257 (net85 vdd!) R=9.6E6
R258 ( net265 net199)  R=7.5E5
T259 ( net199 net212 0 0)  nfet  L=7.00E-6 W=1.70E-6
T260 ( net252 net212 0 0)  nfet  L=7.00E-6 W=1.70E-6
T261 ( net136 net199 net252 0)  nfet  L=7.00E-6 W=1.70E-6
T262 (net15 net124 net124 0) pfet L=3.08E-6 W=3.80E-6
R263 ( net103 net65)  R=3.5E2
T264 ( net65 net118 vdd! vdd!)  pfet  L=1.72E-6 W=0.91E-6
T265 ( net137 net118 vdd! vdd!)  pfet  L=1.72E-6 W=0.91E-6
T266 ( 0 net65 net118 vdd!)  pfet  L=1.72E-6 W=0.91E-6
R267 (net26 net185) R=8.6E4
T268 ( net216 net216 0 0)  nfet  L=0.63E-6 W=2.90E-6
T269 ( net342 net216 0 0)  nfet  L=0.63E-6 W=2.90E-6
R270 ( net342 net234)  R=5.3E4
T271 (net39 vdd! vdd! 0) pfet L=2.35E-6 W=0.81E-6
T272 (net214 net237 net237 0) nfet L=4.55E-6 W=1.70E-6
R273 ( net45 net39)  R=0.3E3
T274 ( net39 net51 vdd! vdd!)  pfet  L=7.80E-6 W=6.67E-6
T275 ( net282 net51 vdd! vdd!)  pfet  L=7.80E-6 W=6.67E-6
T276 ( 0 net39 net51 vdd!)  pfet  L=7.80E-6 W=6.67E-6
C277 (net129 net247) C=6.7E-6
R278 (net278 net146) R=3.5E1
C279 (net224 net179) C=1.2E-9
T280 (net87 net59 net59 0) pfet L=5.56E-6 W=2.81E-6
C281 (vdd! net281) C=6.4E-14
T282 (net92 net347 net347 0) pfet L=4.69E-6 W=0.69E-6
R283 (net53 net169) R=4.0E2
R284 ( net78 net209)  R=2.3E3
T285 ( net209 net209 vdd! vdd!)  pfet  L=2.74E-6 W=9.19E-6
T286 ( net33 net209 vdd! vdd!)  pfet  L=2.74E-6 W=9.19E-6
T287 (net174 0 0 0) pfet L=6.89E-6 W=5.29E-6
R288 ( net229 net194)  R=9.1E3
T289 ( net194 net194 0 0)  nfet  L=9.21E-6 W=5.43E-6
T290 ( net312 net194 0 0)  nfet  L=9.21E-6 W=5.43E-6
R291 (net220 net265) R=2.8E1
T292 ( net261 net261 vdd! vdd!)  pfet  L=9.14E-6 W=9.68E-6
T293 ( net265 net261 vdd! vdd!)  pfet  L=9.14E-6 W=9.68E-6
R294 ( net265 net223)  R=0.7E4
C295 (vdd! net36) C=1.7E-8
R296 (net347 net122) R=8.2E4
T297 (net288 net251 net251 0) pfet L=5.19E-6 W=0.73E-6
C298 (vdd! net330) C=9.7E-12
R299 (net67 net239) R=0.7E3
T300 (net292 net315 net315 0) pfet L=9.01E-6 W=6.02E-6
R301 (net210 0) R=1.8E0
T302 (net73 net52 net52 0) nfet L=0.65E-6 W=5.43E-6
T303 (net116 net289 net289 0) nfet L=6.97E-6 W=1.77E-6
T304 (net314 net220 net220 0) pfet L=3.43E-6 W=9.97E-6
T305 (net282 net181 net181 0) pfet L=5.17E-6 W=5.64E-6
T306 (net216 net102 net102 0) nfet L=2.57E-6 W=8.62E-6
T307 (net271 net173 net173 0) pfet L=2.84E-6 W=8.72E-6
T308 (net166 net58 net58 0) pfet L=9.39E-6 W=9.07E-6
R309 (net305 net276) R=5.8E3
T310 (net59 vdd! vdd! 0) nfet L=9.67E-6 W=4.17E-6
C311 (net183 net314) C=1.8E-5
C312 (net312 net84) C=6.7E-9
T313 (0 net78 net78 0) pfet L=7.38E-6 W=2.74E-6
C314 (net315 net328) C=5.9E-11
C315 (net306 net266) C=9.1E-10
T316 (0 0 0 0) pfet L=5.71E-6 W=2.78E-6
T317 (net217 net36 net36 0) pfet L=9.70E-6 W=5.08E-6
R318 (net17 net216) R=0.7E6
C319 (net332 net33) C=6.2E-12
T320 (net315 net329 net329 0) nfet L=3.65E-6 W=8.73E-6
R321 (net343 net238) R=3.3E5
T322 (net346 net312 net312 0) pfet L=5.24E-6 W=1.78E-6
T323 (net107 net159 net159 0) pfet L=6.52E-6 W=0.49E-6
T324 (net181 net183 net183 0) pfet L=4.07E-6 W=9.46E-6
T325 (net280 net298 net298 0) nfet L=9.03E-6 W=9.82E-6
C326 (net308 net331) C=8.1E-10
T327 (net330 net277 net277 0) nfet L=7.08E-6 W=0.28E-6
R328 (net110 net338) R=5.9E6
C329 (net49 net203) C=5.9E-12
R330 (net256 net276) R=4.2E1
T331 (net343 net299 net299 0) nfet L=7.74E-6 W=9.68E-6
T332 (net299 net102 net102 0) pfet L=0.59E-6 W=2.62E-6
T333 (net32 net27 net27 0) pfet L=3.84E-6 W=4.85E-6
C334 (net280 net40) C=8.0E-5
R335 (net256 net310) R=2.9E3
R336 (net301 net166) R=0.2E0
C337 (net33 net333) C=1.0E-10
T338 (net100 net343 net343 0) nfet L=3.93E-6 W=2.63E-6
R339 (net152 net281) R=0.8E2
T340 (net253 net290 net290 0) pfet L=5.59E-6 W=6.40E-6
R341 (net288 net343) R=4.0E4
R342 (net137 0) R=7.2E5
C343 (net138 net201) C=7.9E-7
C344 (net282 net75) C=8.1E-6

